US07524813B2
At 0° C., 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (563 mg, 2.94 mmol) was added to a solution of commercially available (S)-2-(tert-butyoxycarbonylaminopent-4-ynoic acid (e.g. Acros, 626 mg, 2.94 mmol) and 1-hydroxybenzotriazole (397 mg, 2.94 mmol) in N,N-dimethylformamide (20 ml). The reaction mixture was stirred at 0° C. for 20 min. A 25% aqueous solution of ammonia (2.38 ml) was added. The reaction mixture was stirred for 16 h, while warming up to room temperature. It was diluted with ethyl acetate (150 ml) and washed with a 10% aqueous solution of sodium hydrogensulphate (150 ml). The aqueous phase was extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with brine (250 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate (100 ml) and washed with a mixture of brine (75 ml) and water (75 ml). The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (50 g), using dichloromethane/methanol (10:1) as eluent, to give 138 mg of ((S)-1-carbamoylbut-3-ynyl)carbamic acid tert-butyl ester.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.94 mmol, 563 mg | Cl.CN(CCCN=C=NCC)C
reactant | tert-butyoxycarbonylaminopent-4-ynoic acid | 2.94 mmol, 626 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)CC#C | C10H15NO4
reactant | 1-hydroxybenzotriazole | 2.94 mmol, 397 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia | 2.38 ml | N | H3N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | ((S)-1-carbamoylbut-3-ynyl)carbamic acid tert-butyl ester | 138 mg | C(C)(C)(C)OC(N[C@@H](CC#C)C(N)=O)=O | C10H16N2O3
